US08426430B2
Sodium (92 mg, 4 mmol) was dissolved in methanol (4 mL) under nitrogen at 0° C. 7-Fluoro-6-nitroquinazolin-4-ol (418 mg, 2 mmol) was added. The mixture was refluxed for 3 h and then cooled to room temperature, and treated with 2N HCl to adjust its pH to 3-4. The solution was concentrated, and the residue was diluted with ethyl acetate, and washed with water twice. The organic solution was concentrated to give 7-methoxy-6-nitroquinazolin-4-ol (405 mg, yield: 92%).

reactant | Sodium | 4 mmol, 92 mg | [Na] | Na
reactant | 7-Fluoro-6-nitroquinazolin-4-ol | 2 mmol, 418 mg | FC1=C(C=C2C(=NC=NC2=C1)O)[N+](=O)[O-] | C8H4FN3O3
reactant | HCl | 2N | Cl | ClH
reactant | methanol | 4 mL | CO | CH4O
product | 7-methoxy-6-nitroquinazolin-4-ol | 405 mg, yield: 92% | COC1=C(C=C2C(=NC=NC2=C1)O)[N+](=O)[O-] | C9H7N3O4
